US05250678
Step A: 17-Ethyl-1-hydroxy-12-[2'-(4"-allyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (400 mg in 6 ml 33% methylene chloride in cyclohexane), allyl trichloroacetimidate (209 μl neat) was added and the reagents allowed to mix for 5 minutes. Trifluoromethanesulfonic acid (9 μl neat) was added slowly via syringe and the mixture stirred at room temperature. After 6 hours the reaction was quenched by the addition of saturated sodium bicarbonate and extracted with ethyl acetate (3×10 ml). The combined organics were washed with brine and dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate:hexane (1:3)+1% methanol) gave the title compound (320 mg). (1H NMR was consistent with the desired structure).

reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 6 ml, 400 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)=O | C43H69NO11
reactant | Trifluoromethanesulfonic acid | 9 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | allyl trichloroacetimidate | 209 μl | ClC(C(OCC=C)=N)(Cl)Cl | C5H6Cl3NO
product | 17-Ethyl-1-hydroxy-12-[2'-(4"-allyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 320 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OCC=C)OC)C)C)=O | C46H73NO11
